2118-04-24 06:19:00 Physician Resident Progress Note
Chief Complaint: Hypotension at rehab
   24 Hour Events:
 MULTI LUMEN - START [**2118-4-23**] 07:59 PM
   placed in ED
 BLOOD CULTURED - At [**2118-4-24**] 12:12 AM
   Weaned off levophed overnight. Patient more interactable this AM. Had
   acute onset respiratory distress, increased crackles and wheezing
   around 9am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-4-24**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 88 (72 - 88) bpm
   BP: 108/58(70) {81/43(52) - 123/65(78)} mmHg
   RR: 26 (19 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 12 (6 - 12)mmHg
   Mixed Venous O2% Sat: 98 - 98
   Total In:
                                                                  1,160 mL
                                                                    913 mL
   PO:
   TF:
   IVF:
                                                                  1,160 mL
                                                                    913 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    410 mL
   Urine:
                                                                    450 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    710 mL
                                                                    503 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General: sitting up, audible wheezing, using accessory muscles to
   breathe
   HEENT: Sclera anicteric, MMM, oropharynx clear. R IJ in place.
   Neck: supple, unable to assess JVP, no LAD
   Lungs: Audible wheezes throughout.  Crackles bilaterally. Tight.
   CV: Irregularly irregular. Tachycardic. No murmurs heard
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly. Surgical scar present.
   Ext: Warm, well perfused, 2+ pulses, no clubbing, or cyanosis. 1+ non
   pitting edema
   Neuro: L sided facial droop. A+Ox1.
   Labs / Radiology
   155 K/uL
   8.5 g/dL
   143 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.1 mEq/L
   21 mg/dL
   108 mEq/L
   140 mEq/L
   25.5 %
   6.9 K/uL
        [image002.jpg]
                             [**2118-4-24**]  02:34 AM
   WBC
   6.9
   Hct
   25.5
   Plt
   155
   Cr
   1.1
   TropT
   0.03
   Glucose
   143
   Other labs: PT / PTT / INR:34.4/37.5/3.6, CK / CKMB /
   Troponin-T:227/7/0.03, Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.3 mg/dL
   Imaging: CXR ([**4-23**]): Left basilar opacity, which may represent
   atelectasis, but
   infection is not completely excluded. No evidence for congestive heart
   failure.
   Microbiology: [**4-23**] Blood cultures x3 pending; Urine culture pending;
   urine legionella antigen pending
   Assessment and Plan
   [**Age over 90 382**] yo F with hypotension and hypoxia.
   .
   #  Hypotension: BP at NH was 70/40. Despite IV fluids in ED, BP not
   responsive. Patient started on peripheral levophed in ED. Differential
   includes most likely septic shock from pulmonary source. Potential
   other etiologies that should always be considered are. Adrenal
   insufficiency, cardiogenic shock secondary to MI, PE to be considered.
   CXR shows infiltrate, concerning for pneumonia, along with SOB and
   cough. Started empirically on Vanc/Zosyn for pneumonia. Patient has
   ruled out for MI, cultures negative, and doesn't improve with abx,
   would consider CTA to rule out PE. AM cortisol within normal limits,
   making adrenal insufficiency less likely.
   -continue broad spectrum abx -Vanc and Zosyn
   -CVP 8-12
   -f/u blood cultures, urine culture
   -surveillance blood cultures this AM
   -send sputum culture
   -follow up urine legionella antigen
   -wean levophed to maintain MAP>65
   -ruled out for MI
   -60Q 8 solumedrol for COPD flare
   .
   # Acute onset respiratory distress this AM: Patient sounds fluid
   overloaded, and received IV fluids overnight. Also has prolonged
   wheezing, concerning for COPD exacerbation. PE always a possibility. If
   doesn
t improve with diuresis, nebs, steroids, would consider CTA.
   -40mg IV lasix x1
   -monitor respiratory status thereafter
   -continue IV solumedrol, q3 hour albuterol, ipratropium
   -consider bipap as needed this AM
   -Continue Vanc/Zosyn empirically for pneumonia
   .
   #  Altered mental status: Patient with dementia at baseline. Somnolent,
   unclear what patient's baseline is. Obtain ABG. LFTs and electrolytes
   unremarkable. Neuro exam non focal.
   -continue to assess
   -consider head CT
   -call family members in AM to discuss baseline.
   -treat infection
   .
   #  Microcytic Anemia: Baseline HCT 33-35. HCT on admission 28.8. Given
   hypotension, concern that blood loss may be contributing to
   hypotension. Ferritin of 69. Haptoglobin elevated, not consistent with
   hemolysis.
   -guaiac stools
   -follow [**Hospital1 **] HCT. Transfuse to keep HCT > 24
   .
   #  Acute renal failure: resolving. Baseline Cr 0.9-1.1. Cr on admission
   was 1.6. Down to 1.1 this AM. Likely prerenal in the setting of
   infection and sepsis.
   -continue IV fluids to maintain BP
   .
   #  Lactic acidosis: resolved. Lactate 2.5 in ED. Likely secondary to
   organ hypoperfusion. No abdominal pain. Repeat lactate 0.7 overnight.
   .
   #  Atrial fibrillation: Patient on digoxin, and anticoagulated on
   coumadin.
   -continue dig. Dig level in ED within normal limits
   -held coumadin overnight. INR 3.4 this AM. Consider restarting coumadin
   once INR< 3.0. Goal INR 2.0-3.0
   .
   # FEN: IVFs as needed for hypotension, replete electrolytes, NPO given
   concern for aspiration until speech and swallow evaluation or patients
   status improves. Aspiration precautions.
   .
   # Prophylaxis: anticoagulated on coumadin, pneumoboots
   .
   # Access: peripherals
   .
   # Code: DNR/DNI -confirmed
   .
   # Communication: Patient. HCP is sister [**Name (NI) 3472**] [**Name (NI) 9017**]. [**Telephone/Fax (1) 9018**]. Brother is [**Name (NI) 7789**] [**Name (NI) 3299**] [**Telephone/Fax (1) 9019**].
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-4-23**] 06:11 PM
   Multi Lumen - [**2118-4-23**] 07:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2118-04-24 09:48:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sepsis, hypotension, hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2118-4-23**] 07:59 PM
   placed in ED
 BLOOD CULTURED - At [**2118-4-24**] 12:12 AM
 able to wean off levophed this morning
 more sob/dyspnea this morning
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-4-24**] 08:26 AM
   Heparin Sodium (Prophylaxis) - [**2118-4-24**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-4-24**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.7
C (96.2
   HR: 106 (72 - 106) bpm
   BP: 123/70(81) {81/43(52) - 123/70(81)} mmHg
   RR: 33 (19 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 16 (6 - 16)mmHg
   Mixed Venous O2% Sat: 98 - 98
   Total In:
                                                                  1,160 mL
                                                                  1,321 mL
   PO:
   TF:
   IVF:
                                                                  1,160 mL
                                                                  1,321 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    588 mL
   Urine:
                                                                    450 mL
                                                                    588 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    710 mL
                                                                    733 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Rhonchorous: ), resp distress, acc muscle use; prolonged exp phase
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   155 K/uL
   143 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.1 mEq/L
   21 mg/dL
   108 mEq/L
   140 mEq/L
   25.5 %
   6.9 K/uL
        [image002.jpg]
                             [**2118-4-24**]  02:34 AM
   WBC
   6.9
   Hct
   25.5
   Plt
   155
   Cr
   1.1
   TropT
   0.03
   Glucose
   143
   Other labs: PT / PTT / INR:34.4/37.5/3.6, CK / CKMB /
   Troponin-T:227/7/0.03, Lactic Acid:0.7 mmol/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   more respiratory distress; + accessory muscle use this morning
   fluid overload, worsening COPD fl, cardiac ischemia, mucous plugging
   leading dx
   PE less likely given therapeutic anticoag
   check EKG, cycle enzymes, bronchodilators
   Pt is DNR/I.  Since fluid overload, ischemia or plugging potentially
   reversible, reasonable to initiate limited trial of bipap
   empiric coverage with abx pending cx data guidance
 HYPOTENSION, PRESUMED 2NDRY TO SEPSIS
   able to wean pressors off
   cont empiric abx pending cx data guidance
 Acute renal failure
   resolved- back at baseline creat
 Hypertension
   cont meds
 Atrial fibrillation
   dig
   therapeutic anticoag
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-4-23**] 06:11 PM
   Multi Lumen - [**2118-4-23**] 07:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Patient is critically ill.
   Time spent 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Last Name (NamePattern1) 509**], MD
   on:[**2118-4-24**] 09:49 ------

2118-04-25 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**Age over 90 382**] yo F with a history of stroke, Atrial fibrillation on coumadin, CHF,
   COPD, Crohn's disease, and uterine cancer sent in from [**Hospital 12**] rehab for
   BP of 70/40, HR 65 (on digoxin), 92% on RA.
   - Gave patient 40mg IV lasix in AM and placed patient on BiPap, patient
   net negative 600 cc at 7pm, comfortable breaths.  Patient's younger
   brother, [**Name (NI) **], updated.
   - BiPap down to 50% at 7pm, satting 99 to 100.
   - Some lower sternal, mid chest chest pain, dull, [**4-24**].  Pt. mentions
   it has come and gone for months.  EKG unchanged from previous.  CE &
   trops sent, pain went away during physical exam, would give 1mg
   morphine if recurs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2118-4-24**] 05:45 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-4-24**] 08:26 AM
   Heparin Sodium (Prophylaxis) - [**2118-4-24**] 08:26 AM
   Morphine Sulfate - [**2118-4-25**] 04:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-4-25**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 104 (82 - 122) bpm
   BP: 92/54(63) {92/44(58) - 151/88(103)} mmHg
   RR: 18 (15 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 46.7 kg (admission): 40 kg
    CVP: 2 (2 - 19)mmHg
   Total In:
                                                                  1,839 mL
                                                                     70 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  1,719 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  2,533 mL
                                                                    198 mL
   Urine:
                                                                  2,533 mL
                                                                    198 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -694 mL
                                                                   -128 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 629 (220 - 694) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 22
   PEEP: 2 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 10.5 L/min
   Physical Examination
   General: sitting up, audible wheezing, using accessory muscles to
   breathe
   HEENT: Sclera anicteric, MMM, oropharynx clear. R IJ in place.
   Neck: supple, unable to assess JVP, no LAD
   Lungs: Audible wheezes throughout.  Crackles bilaterally. Tight.
   CV: Irregularly irregular. Tachycardic. No murmurs heard
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly. Surgical scar present.
   Ext: Warm, well perfused, 2+ pulses, no clubbing, or cyanosis. 1+ non
   pitting edema
   Neuro: L sided facial droop. A+Ox1.
   Labs / Radiology
   170 K/uL
   8.6 g/dL
   179 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.9 mEq/L
   15 mg/dL
   111 mEq/L
   146 mEq/L
   26.8 %
   7.4 K/uL
        [image002.jpg]
                             [**2118-4-24**]  02:34 AM
                             [**2118-4-24**]  04:44 PM
                             [**2118-4-25**]  01:44 AM
   WBC
   6.9
   7.4
   Hct
   25.5
   26.8
   Plt
   155
   170
   Cr
   1.1
   1.1
   1.1
   TropT
   0.03
   0.03
   0.03
   Glucose
   143
   176
   179
   Other labs: PT / PTT / INR:39.6/36.9/4.3, CK / CKMB /
   Troponin-T:161/7/0.03, Lactic Acid:0.7 mmol/L, Ca++:8.9 mg/dL, Mg++:2.0
   mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   [**Age over 90 382**] yo F with hypotension and hypoxia.
   #  Hypotension: BP at NH was 70/40. Despite IV fluids in ED, BP not
   responsive. Patient started on peripheral levophed in ED. Differential
   includes most likely septic shock from pulmonary source. Potential
   other etiologies that should always be considered are. Adrenal
   insufficiency, cardiogenic shock secondary to MI, PE to be considered.
   CXR shows infiltrate, concerning for pneumonia, along with SOB and
   cough. Started empirically on Vanc/Zosyn for pneumonia. Patient has
   ruled out for MI, cultures negative, and doesn't improve with abx,
   would consider CTA to rule out PE. AM cortisol within normal limits,
   making adrenal insufficiency less likely.
   -continue broad spectrum abx -Vanc and Zosyn
   -CVP 8-12
   -f/u blood cultures, urine culture
   -surveillance blood cultures this AM
   -send sputum culture
   -follow up urine legionella antigen
   -wean levophed to maintain MAP>65
   -ruled out for MI
   -60Q 8 solumedrol for COPD flare
   # Acute onset respiratory distress this AM: Patient sounds fluid
   overloaded, and received IV fluids overnight. Also has prolonged
   wheezing, concerning for COPD exacerbation. PE always a possibility. If
   doesn
t improve with diuresis, nebs, steroids, would consider CTA.
   -40mg IV lasix x1
   -monitor respiratory status thereafter
   -continue IV solumedrol, q3 hour albuterol, ipratropium
   -consider bipap as needed this AM
   -Continue Vanc/Zosyn empirically for pneumonia
   #  Altered mental status: Patient with dementia at baseline. Somnolent,
   unclear what patient's baseline is. Obtain ABG. LFTs and electrolytes
   unremarkable. Neuro exam non focal.
   -continue to assess
   -consider head CT
   -call family members in AM to discuss baseline.
   -treat infection
   #  Microcytic Anemia: Baseline HCT 33-35. HCT on admission 28.8. Given
   hypotension, concern that blood loss may be contributing to
   hypotension. Ferritin of 69. Haptoglobin elevated, not consistent with
   hemolysis.
   -guaiac stools
   -follow [**Hospital1 **] HCT. Transfuse to keep HCT > 24
   #  Acute renal failure: resolving. Baseline Cr 0.9-1.1. Cr on admission
   was 1.6. Down to 1.1 this AM. Likely prerenal in the setting of
   infection and sepsis.
   -continue IV fluids to maintain BP
   #  Lactic acidosis: resolved. Lactate 2.5 in ED. Likely secondary to
   organ hypoperfusion. No abdominal pain. Repeat lactate 0.7 overnight.
   #  Atrial fibrillation: Patient on digoxin, and anticoagulated on
   coumadin.
   -continue dig. Dig level in ED within normal limits
   -held coumadin overnight. INR 3.4 this AM. Consider restarting coumadin
   once INR< 3.0. Goal INR 2.0-3.0
   # FEN: IVFs as needed for hypotension, replete electrolytes, NPO given
   concern for aspiration until speech and swallow evaluation or patients
   status improves. Aspiration precautions.
   # Prophylaxis: anticoagulated on coumadin, pneumoboots
   # Access: peripherals
   # Code: DNR/DNI -confirmed
   # Communication: Patient. HCP is sister [**Name (NI) 3472**] [**Name (NI) 9017**]. [**Telephone/Fax (1) 9018**]. Brother is [**Name (NI) 7789**] [**Name (NI) 3299**] [**Telephone/Fax (1) 9019**].
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-4-23**] 06:11 PM
   Multi Lumen - [**2118-4-23**] 07:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2118-04-26 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - got Vit K 5mg PO
   - spoke with family and they want to escalation of care, if patient
   worsens comfort care measures
   - metoprolol 5 mg IV x 1 for rate control
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2118-4-25**] 08:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2118-4-26**] 02:26 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2118-4-25**] 07:47 PM
   Morphine Sulfate - [**2118-4-25**] 10:00 PM
   Metoprolol - [**2118-4-25**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-4-26**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 96 (94 - 130) bpm
   BP: 98/52(64) {89/43(54) - 127/88(96)} mmHg
   RR: 17 (17 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 46.7 kg (admission): 40 kg
    CVP: 2 (2 - 12)mmHg
   Total In:
                                                                    879 mL
                                                                    190 mL
   PO:
   TF:
   IVF:
                                                                    879 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                    598 mL
                                                                    230 mL
   Urine:
                                                                    598 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    281 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 305 (305 - 708) mL
   PS : 10 cmH2O
   RR (Spontaneous): 0
   PEEP: 2 cmH2O
   FiO2: 70%
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 9.2 L/min
   Physical Examination
   General: Somnolent, A+Ox1 only, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear. R IJ in place.
   Neck: supple, unable to assess JVP, no LAD
   Lungs: Diminished breath sounds bilaterally. Crackles at bases. Sparse
   expiratory wheezes. Tight.
   CV: Irregularly irregular. Tachycardic. No murmurs heard
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly. Surgical scar present.
   Ext: Warm, well perfused, 2+ pulses, no clubbing, or cyanosis. 1+ non
   pitting edema
   Neuro: L sided facial droop. A+Ox1. Recall not intact. Speech
   fragmented.
   Labs / Radiology
   234 K/uL
   8.7 g/dL
   113 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.2 mEq/L
   21 mg/dL
   112 mEq/L
   147 mEq/L
   27.0 %
   18.2 K/uL
        [image002.jpg]
                             [**2118-4-24**]  02:34 AM
                             [**2118-4-24**]  04:44 PM
                             [**2118-4-25**]  01:44 AM
                             [**2118-4-25**]  02:00 PM
                             [**2118-4-26**]  02:17 AM
   WBC
   6.9
   7.4
   18.2
   Hct
   25.5
   26.8
   27.0
   Plt
   155
   170
   234
   Cr
   1.1
   1.1
   1.1
   1.2
   1.2
   TropT
   0.03
   0.03
   0.03
   0.04
   Glucose
   143
   176
   179
   130
   113
   Other labs: PT / PTT / INR:40.5/35.4/4.4, CK / CKMB /
   Troponin-T:124/7/0.04, Lactic Acid:0.7 mmol/L, Ca++:9.2 mg/dL, Mg++:2.3
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   [**Age over 90 382**] yo F with a history of stroke, atrial fibrillation (warfarin), CHF,
   COPD, Crohn's disease, and uterine cancer sent in from [**Hospital 12**] rehab
   forwith hypotension and hypoxia.
   #  Hypotension/SIRS: VS stable of pressors. Likely pulmonary source of
   infection. Continue broad spectrum abx -Vanc and Zosyn and f/u blood
   cultures (NGTD), urine culture (NGTD), urine legionella antigen
   (negative). Once clinical status improves will d/c antibiotics since
   initial concern for pulmonary source of infection cannot be reproduced
   on CXR.
   # Acute respiratory distress: Dual etiology, i.e. CHF exacerbation and
   COPD exacerbation. On intermittent furosemide boluses, as needed for
   SOB and rales on exam as well as methylprednisone (50 mg q 8hrs, with
   plan to transition to PO when able). Off CPAP since midnight.
   # Nutrition: failed S/S on [**2118-4-25**]. Plan for NG tube when INR <2.
   # Supratherapeutic INR: holding warfarin and IV vit k
   # Chest pain: upper right chest wall w cough. No ecg change; trending
   enzymes. Morphine for analgesia.
   #  Altered mental status: resolved Patient with dementia at baseline.
   #  Microcytic anemia: Stable at 27 (baseline HCT 33-35). HCT 26.8.
   Monitoring HCT and guaiacs. Transfuse to keep HCT > 24. Consider
   endoscopy and will check Fe studies.
   #  Atrial fibrillation: DC digoxin and start metoprolol.  Holding
   warfarin for suprathx INR. Goal INR 2.0-3.0.
   # FEN: IVFs as needed for hypotension, replete electrolytes, S/S and
   nutrition c.s
   # Prophylaxis: anticoagulated on coumadin, pneumoboots
   # Access: peripherals
   # Code: DNR/DNI -confirmed
   # Communication: Patient. HCP is sister [**Name (NI) 3472**] [**Name (NI) 9017**]. [**Telephone/Fax (1) 9018**]. Brother is [**Name (NI) 7789**] [**Name (NI) 3299**] [**Telephone/Fax (1) 9019**].
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-4-23**] 06:11 PM
   Multi Lumen - [**2118-4-23**] 07:59 PM
   Prophylaxis:
   DVT: supratherapeutic inr, PNB
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:  MICU

2118-04-27 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - iv lasix, -1200 overall, contraction by bicarb and BP in mid 80s.
   held evening metoprolol, monitor
   - dc dig
   - INR at 1.7
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2118-4-25**] 08:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2118-4-27**] 01:31 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2118-4-26**] 11:30 AM
   Pantoprazole (Protonix) - [**2118-4-26**] 08:38 PM
   Metoprolol - [**2118-4-26**] 11:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-4-27**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.5
C (97.7
   HR: 83 (65 - 148) bpm
   BP: 115/66(76) {82/39(49) - 122/75(85)} mmHg
   RR: 17 (12 - 38) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 46.7 kg (admission): 40 kg
    CVP: 5 (5 - 15)mmHg
   Total In:
                                                                    621 mL
                                                                    174 mL
   PO:
   TF:
   IVF:
                                                                    621 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  2,185 mL
                                                                    282 mL
   Urine:
                                                                  2,185 mL
                                                                    282 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,564 mL
                                                                   -108 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 305 (305 - 305) mL
   RR (Spontaneous): 0
   PEEP: 2 cmH2O
   FiO2: 70%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///34/
   Physical Examination
   General: Somnolent, A+Ox1 only, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear. R IJ in place.
   Neck: supple, unable to assess JVP, no LAD
   Lungs: Diminished breath sounds bilaterally. Crackles at bases. Sparse
   expiratory wheezes. Tight.
   CV: Irregularly irregular. Tachycardic. No murmurs heard
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly. Surgical scar present.
   Ext: Warm, well perfused, 2+ pulses, no clubbing, or cyanosis. 1+ non
   pitting edema
   Neuro: L sided facial droop. A+Ox1. Recall not intact. Speech
   fragmented.
   Labs / Radiology
   221 K/uL
   8.4 g/dL
   121 mg/dL
   1.1 mg/dL
   34 mEq/L
   3.4 mEq/L
   28 mg/dL
   107 mEq/L
   150 mEq/L
   25.9 %
   11.1 K/uL
        [image002.jpg]
                             [**2118-4-24**]  02:34 AM
                             [**2118-4-24**]  04:44 PM
                             [**2118-4-25**]  01:44 AM
                             [**2118-4-25**]  02:00 PM
                             [**2118-4-26**]  02:17 AM
                             [**2118-4-26**]  04:32 PM
                             [**2118-4-27**]  03:41 AM
   WBC
   6.9
   7.4
   18.2
   11.1
   Hct
   25.5
   26.8
   27.0
   25.9
   Plt
   155
   170
   234
   221
   Cr
   1.1
   1.1
   1.1
   1.2
   1.2
   1.3
   1.1
   TropT
   0.03
   0.03
   0.03
   0.04
   Glucose
   143
   176
   179
   130
   113
   129
   121
   Other labs: PT / PTT / INR:14.2/23.7/1.2, CK / CKMB /
   Troponin-T:124/7/0.04, Lactic Acid:0.7 mmol/L, Ca++:8.9 mg/dL, Mg++:2.4
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   [**Age over 90 382**] yo F with a history of stroke, atrial fibrillation (warfarin), CHF,
   COPD, Crohn's disease, and uterine cancer sent in from [**Hospital 12**] rehab
   forwith hypotension and hypoxia.
   #  Hypotension/SIRS: Episode of hypotension yesterday after diuresis,
   HCO3 consistent with contraction. Bbroad spectrum abx  (Vanc and Zosyn
   for 7 day course, ends [**2118-4-28**]) .
   # Acute respiratory distress: Dual etiology, i.e. CHF exacerbation and
   COPD exacerbation. CHF exacerbation requiring intermittent lasix. On
   methylprednisone (50 mg q 8hrs, with plan to transition to PO when
   able). Transition to oral prednisione with taper one TF in place. Off
   CPAP from more than 24 hrs.
   # Hypernatremia, hypovolemic: likely caused by diuresis in the setting
   of decreased po intake. Doboff and D5W boluses for correction of
   hypernatremia.  Concurrent gentle diuresis to prevent overload.
   # Nutrition: failed S/S on [**2118-4-25**]. Plan for doboff tube today.
   # Supratherapeutic INR: resolved; holding warfarin until after doboff
   placed
   #  Altered mental status: resolved Patient with dementia at baseline.
   #  Microcytic anemia: Stable at HCT  (baseline HCT 33-35).
   #  Atrial fibrillation: on  metoprolol.  Will restart warfarin after
   necessary procedures. Goal INR 2.0-3.0.
   # FEN: IVFs as needed for hypotension, replete electrolytes, S/S and
   nutrition c.s
   # Prophylaxis: anticoagulated on coumadin, pneumoboots
   # Access: peripherals , central line (plan to pull with end of abx on
   [**2118-4-28**].
   # Code: DNR/DNI
   # Communication: Patient. HCP is sister [**Name (NI) 3472**] [**Name (NI) 9017**]. [**Telephone/Fax (1) 9018**]. Brother is [**Name (NI) 7789**] [**Name (NI) 3299**] [**Telephone/Fax (1) 9019**].
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2118-4-23**] 06:10 PM
   Multi Lumen - [**2118-4-23**] 07:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: